* E:\EDL\Lab 2\EDL_LAB2_B_latest.asc
VDC dc 0 5
XX1 dc 0 ENC w dc_motor_model
R1 VCC trig 1k
D1 trig VCC 1N4148
C1 ENC trig 4.7n
XU2 0 trig 555_out VCC N002 N001 N001 VCC NE555
R2 VCC N001 6.8k
C2 N001 0 .1µ
C4 N002 0 0.1µF
VCC VCC 0 5
C5 VCC 0 0.1µ
C6 VCC 0 .1µ
C7 VCC 0 47µ
R3 pwm_buffered Speed 18k
C3 Speed 0 .1µ
XU1 555_out N003 VCC 0 pwm_buffered level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 0 N003 33k
R5 VCC N003 33k

* block symbol definitions
.subckt dc_motor_model +DC -DC enc omega
Aenc N002 0 0 0 0 p 0 0 SCHMITT Vt=0.5 Vh=0.5 td=10n
Bp 0 N002 I=kenc*abs(v(omega))*(V(p)-0.5)
Cenc N002 0 1m
LM +DC N001 65µH
RM N001 emf {RM}
Bemf emf -DC V=k*V(omega)
B§Itorque 0 omega I=k*I(Bemf)
C_Jinertia omega 0 {J}
R_Bfriction omega 0 {1/B}
Benc N003 0 V=5*V(p)
B§I_load_torque_int omega 0 I=sgn(v(omega))*min(Tint,0.1*abs(v(omega)))
R1 enc N003 220
.param kenc=0.49
.param RM=2.02
.param k = 0.9
.param J = 1.03m
.param B = 5.94m
.param Tint = 0.0407
.ends dc_motor_model

.model D D
.lib C:\Users\kwat1\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 .05 0
.lib NE555.sub
.lib UniversalOpamps2.sub
.backanno
.end
